US05880270
Briefly, N-(4-bromobutyl)phthalimide was treated with the anion of ethyl N-hydroxyacetimidate in tetrahydrofuran to yield ethyl N-[(4-phthalimidobutyl)oxy]acetimidate. The product was then treated with hydrazine to release the desired amine, ethyl N-[(4-aminobutyl)oxy]acetamidate, from the phthalimide. The desired amine was isolated from the crude product by removal of phthalazine-1,4-dione by filtration, and was coupled to biotin using dicyclohexyl carbodiimide and N-hydroxy succinimide in dimethylformamide. Acidic hydrolysis of the coupled product, ethyl N-[(4-biotinamidobutyl)oxy]acetamidate, gave the final product, N-(4-aminooxybutyl)biotinamide, V. Other analogous aminooxy linkers may be prepared by variations of the above synthetic procedure. The synthesis of biotin aminooxy linker V is described in more detail and summarized in the reaction scheme presented in Example 1.

reactant | N-(4-bromobutyl)phthalimide | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | ethyl N-hydroxyacetimidate | ON=C(C)OCC | C4H9NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl N-[(4-phthalimidobutyl)oxy]acetimidate | C1(C=2C(C(N1CCCCON=C(C)OCC)=O)=CC=CC2)=O | C16H20N2O4
